US04223033
Following the procedure of Example 3, (6-benzoyl-2-pyridyl)methanol and 2-(2-naphthyl)-3-methylbutanoic acid are reacted, yielding (6-benzoyl-2-pyridyl)methyl 2-(2-naphthyl)-3-methylbutanoate.

reactant | (6-benzoyl-2-pyridyl)methanol | C(C1=CC=CC=C1)(=O)C1=CC=CC(=N1)CO | C13H11NO2
reactant | 2-(2-naphthyl)-3-methylbutanoic acid | C1=C(C=CC2=CC=CC=C12)C(C(=O)O)C(C)C | C15H16O2
product | (6-benzoyl-2-pyridyl)methyl 2-(2-naphthyl)-3-methylbutanoate | C1=C(C=CC2=CC=CC=C12)C(C(=O)OCC1=NC(=CC=C1)C(C1=CC=CC=C1)=O)C(C)C | C28H25NO3
